US08440666B2
4-Bromo-2-[2-(pyridin-4-ylmethylamino)ethyl]-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one
2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)acetamide (35 mg, 0.073 mmol) in N,N-dimethylformamide (1 mL) was mixed with a borane tetrahydrofuran complex (1.13 M in tetrahydrofuran, 78 μL, 0.088 mmol) under cooling with ice and stirred at room temperature for 5.5 hours. After completion of the reaction, the reaction solution was mixed with saturated aqueous sodium chloride and extracted with ethyl acetate. The resulting organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give the desired product (32 mg, 92% yield).

reactant | 2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)acetamide | 0.073 mmol, 35 mg | BrC1=C(C=NN(C1=O)CC(=O)NCC1=CC=NC=C1)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H28BrN5O2
reactant | borane tetrahydrofuran | 0.088 mmol, 1.13 M, 78 μL | O1CCCC1.B
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-2-[2-(pyridin-4-ylmethylamino)ethyl]-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 32 mg, 92% yield | BrC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)CCNCC2=CC=NC=C2)=O | C22H30BrN5O
